Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan / Shellfish Derived
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with h/o DM1 c/b neuropathy, gastroparesis, s/p
pancreas transplant in ___ on sirolimus and tacrolimus,
presents with nausea, vomiting, coffee ground emesis and
abdominal pain. Pt reports of nausea, vomiting and abdominal 
pain
started from yesterday. Pt claims that this is his typical
gastroparesis symptoms. He vomited more than 10 times yesterday.
His had bilious emesis initially and then noticed bright red
blood and coffee ground material in his vomitus. His pain is
epigastric in location, sharp, ___. Pt claims of normal bowel
movement. He moved his bowel this am, denies BRBPR or melena. 
 
ED: VS: 101.3 120 130/90 24 100%. Labs: lactate 5.7, bicarb 15,
urine ketones, Cr 1.4, WBC 8.1 and hct of 41. Patient got a 
total
of IV Dilaudid, Zofran, Reglan, and normal saline. His lactate
trended down to 1.2. The pt was given vancomycin and cefepime. 
Pt
was noted to have a small amount of coffee ground emesis which
was heme-occult positive.
 
Past Medical History:
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery 

 
Social History:
___
Family History:
NC
 
Physical Exam:
General: Awake, alert, appears to be in some pain.  
HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions 
noted in OP  
Neck: supple, no significant JVD  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales  
Cardiac: RRR, nl S1 S2, no murmurs, rubs or gallops appreciated  

Abdomen: diffusely tender to light palpation, soft, ND, 
normoactive bowel sounds, ___ neg. +voluntary guarding. no 
masses or organomegaly noted  
Extremities: No edema, 2+ radial, DP pulses b/l  
Skin: multiple tattoos.  
 
Pertinent Results:
___ 10:05PM BLOOD WBC-8.1# RBC-5.14# Hgb-14.7 Hct-43.6 
MCV-85 MCH-28.5 MCHC-33.7 RDW-13.7 Plt ___
___ 10:05PM BLOOD Neuts-88.9* Lymphs-7.4* Monos-2.9 Eos-0.4 
Baso-0.4
___ 05:55AM BLOOD WBC-3.9* RBC-4.22* Hgb-12.1* Hct-35.3* 
MCV-84 MCH-28.7 MCHC-34.3 RDW-13.2 Plt ___
___ 10:05PM BLOOD Glucose-156* UreaN-23* Creat-1.4* Na-141 
K-4.6 Cl-104 HCO3-15* AnGap-27*
___ 05:55AM BLOOD Glucose-84 UreaN-6 Creat-0.7 Na-138 
K-3.1* Cl-103 HCO3-26 AnGap-12
___ 10:05PM BLOOD ALT-15 AST-25 AlkPhos-138* TotBili-0.5
___ 10:05PM BLOOD Lipase-22
___ 05:55AM BLOOD Amylase-37
___ 08:47AM BLOOD tacroFK-3.1* rapmycn-3.1*
___ 05:55AM BLOOD tacroFK-12.5 rapmycn-5.9
___ 10:43PM BLOOD Lactate-5.7*
___ 04:07PM BLOOD Lactate-1.2

___
HEAVY METAL SCREEN 
  Test                          Result              Reference 
Range/Units
ARSENIC, BLOOD                <3                  LESS THAN 23 
UG/L UG/L
MERCURY, BLOOD                <4                  ___ UG/L
LEAD, BLOOD                   <2                  ___ SEE NOTE

___ 05:40AM 
FAMILIAL MEDITERRANEAN FEVER Results Pending 

___ CT abdomen/pelvis
CT ABDOMEN: The lung bases are clear. There is no pericardial or 
pleural 
effusion. The liver is unremarkable except to note small area of 
focal fatty 
infiltration adjacent to the ligamentum teres (2, 26). The 
gallbladder is 
unremarkable. The spleen, adrenal glands and kidneys are normal 
in 
appearance. Small bowel loops are normal in caliber and without 
focal wall 
thickening. There is no free fluid or free air. 
  
CT OF THE PELVIS: Patient is status post right lower quadrant 
pancreatic 
transplant. The pancreas appears to enhance homogenously. Small 
amount of 
fluid adjacent to the pancreatic head is again identified and 
not 
significantly changed when compared to prior exam. There is no 
change in 
peripancreatic fluid stranding or new collections identified. 
The rectum, 
sigmoid colon, bladder and prostate gland are unremarkable. 
There is no 
pelvic or inguinal lymphadenopathy. 

BONE WINDOWS: There are no suspicious lytic or sclerotic lesions 
identified

IMPRESSION:
1. Stable appearance of right lower quadrant pancreatic 
transplant with small 
amount of fluid adjacent to the pancreatic head, unchanged. No 
new fluid 
collections or peripancreatic fat stranding identified. 

CXR ___:
No interval occurrence of infectious or other abnormalities.  
Unchanged size of the cardiac silhouette, no pleural effusions. 
Known right 
aortic arch. 

 
Brief Hospital Course:
#. Abdominal Pain:  On presentation to the ED, patient was 
febrile to 101.3 with severe abdominal pain, nausea/vomiting, 
leukocytosis of 8.1 with 88% neutrophils and a serum lactate of 
5.3.  His pain was initially treated with dilaudid IV prn, his 
nausea was treated with zofran, and he was made NPO  Initially 
there was a concern for pancreas rejection, intraabdominal 
infection or bowel infarction.  A CT of the abdomen was 
performed, which showed the transplant to be unchanged from 
prior studies, and no other obvious cause of his pain.  
Transplant surgery was consulted, who attributed his pain to 
gastroparesis given the similarity of his presentation to prior 
presentations. Gastroenterology was consulted and recommended 
testing for more unusual abdominal pain syndromes, such as heavy 
metal poisoning, familial Mediterranean fever and porphyria, all 
of which were pending on discharge. On subsequent days, his 
fever, leukocytosis and elevated lactate resolved.  His diet was 
advanced to a regular diabetic diet, and his pain was controlled 
with PO dilaudid and his home fentanyl patch.  Patient initially 
had hypoactive bowel sounds, and few bowel movements, but 
retained normal bowel function throughout this hospitalization.  
Patient was discharged with his home regimen of fentanyl patch, 
with vicodin for breakthrough pain.  
.
#. s/p pancreas transplant:  On initial presentation, serum 
rapamune and tacrolimus levels were depressed at 3.1 and 3.1 
respectively.  Patient was given a loading dose of 6mg of 
rapamune once, and his dose was increased to 4mg PO daily.  
Tacrolimus dose was increased to 4mg PO bid.  Subsequent 
rapamune and tacrolimus levels were 12.5 and 5.9, in the 
therapeutic range.  Tacrolimus dose was decreased to 3mg PO bid 
on discharge. Daily fasting glucose was stable, ranging from 83 
to 104.

 
Medications on Admission:
1. Duloxetine 90 mg E.C PO DAILY  
2. Dronabinol 10 mg PO TID  
3. Gabapentin 600 mg PO TID  
4. Docusate Sodium 100 mg PO BID  
5. Bisacodyl 10 mg Rectal HS PRN  
6. Trimethoprim-Sulfamethoxazole 80-400 mg PO DAILY  
7. Fentanyl 50 mcg/hr Patch Transdermal Q72H  
- vicodin prn pain
8. Diazepam 10 mg PO Q6H PRN Anxiety  
9. Metoclopramide 20 mg PO QIDACHS (before meals and at 
bedtime)).  
10. Omeprazole 40 mg PO BID -(pt reports taking 40mg. OMR says 
20mg)  
11. Prochlorperazine Maleate 10 mg PO Q6H PRN  
12. Topiramate 25 mg PO DAILY as needed for headache.  
13. Tacrolimus 3 mg PO Q12H  
14. Sirolimus 4 mg PO DAILY  
15. Senna 8.6 mg PO BID PRN for constipation.  
16. Bisacodyl 10 mg Tablet, (E.C.) PO DAILY PRN 
 
Discharge Medications:
1. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Dronabinol 10 mg Capsule Sig: One (1) Capsule PO TID (3 times 
a day).  
3. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
6. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
8. Diazepam 10 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
9. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
10. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
11. Prochlorperazine Maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.  
12. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for headache.  
13. Tacrolimus 1 mg Capsule Sig: Three (3) Capsule PO Q12H 
(every 12 hours).  
14. Sirolimus 1 mg Tablet Sig: Four (4) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
16. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain
s/p Pancreas Transplant

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with abdominal pain, fever nausea and 
vomiting.  A CAT scan of your abdomen showed that your 
transplanted pancreas looked normal.  You were treated with 
antibiotics for a suspected infection, and your temperature 
return to normal. These were stopped after 2 days given your 
improvement. The blood levels of your immunosupressant drugs 
were low, and the doses were increased.  

The following changes were made in your medications:
Please take prograf (tacrolimus) 3mg, take one tablet twice 
daily
Please take rapamune (sirolimus) 4mg, once daily

Please adhere to your follow-up appointments. They are important 
for managing your long-term health.

Please return to the hospital or call your doctor if you have 
temperature greater than 101, shortness of breath, worsening 
difficulty with swallowing, chest pain, abdominal pain, 
diarrhea, or any other symptoms that you are concerned about.
 
Followup Instructions:
___